US09255097B2
Preparation 13C: {1-[4-(4-cyano-3-fluoro-phenyl)-1-ethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester
A mixture of [1-(4-chloro-1-ethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester (210 mg, 0.59 mmol) in CH3CN (10 mL), 3-fluoro-4-cyanophenylboronic acid (126 mg, 0.77 mmol), Pd(PPh)4 (14 mg, 0.012 mmol) and 0.4 M Na2CO3 (4.5 mL, 1.77 mmol) was stirred at 90° C. overnight under N2 atmosphere. The organic was concentrated in vacuo, and the aqueous extracted with DCM (2×). The combined organics were washed with brine, dried (Na2SO4) and concentrated. The residue was purified by silica chromatography (1:2, EA:PE) to give 185 mg (64%) of the title compound as a yellow solid. [M+H] Calc'd for C23H28FN5O3, 442. Found, 442.

reactant | [1-(4-chloro-1-ethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 0.59 mmol, 210 mg | C(C)(C)(C)OC(NC1CCN(CC1)C=1N(C(C=C(N1)Cl)=O)CC)=O | C16H25ClN4O3
reactant | 3-fluoro-4-cyanophenylboronic acid | 0.77 mmol, 126 mg | FC=1C=C(C=CC1C#N)B(O)O | C7H5BFNO2
reactant | Na2CO3 | 1.77 mmol, 0.4 M, 4.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | {1-[4-(4-cyano-3-fluoro-phenyl)-1-ethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | 185 mg, 64% | C(C)(C)(C)OC(NC1CCN(CC1)C=1N(C(C=C(N1)C1=CC(=C(C=C1)C#N)F)=O)CC)=O | C23H28FN5O3
